US04326055
In a manner analogous to that described in Example 11, from p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]-benzoic acid and benzyl chloride there can be obtained p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]-benzoic acid benzyl ester of melting point 113°-114° C.

reactant | p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]-benzoic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)/C(=C/C1=CC=C(C(=O)O)C=C1)/C)C | C24H28O2
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
product | p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)\C=C(/C)\C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)=O | C31H34O2
